US08604062B2
Step c) 3-(3-Chloro-phenyl)-5-methyl-isoxazole-4-carboxylic acid ethyl ester
To a suspension of sodium (2.67 g, 116 mmol) in methanol (100 mL) was added ethyl acetoacetate (12.8 g, 11.9 mL, 110 mmol) at room temperature over 15 minutes and then a solution of (E)- and/or (Z)—N-hydroxy-3-chloro-benzenecarboximidoyl chloride (19.0 g, 100 mmol) in methanol (100 mL) was added over 20 minutes and the resulting mixture allowed to stir for 4 h at room temperature. The mixture was then poured onto water and cooled to 5° C., filtered and evaporated. Purification by recrystallisation from ethanol afforded the title compound (10.1 g, 40%) which was obtained as a white solid. Mp: 71-73° C.

reactant | sodium | 116 mmol, 2.67 g | [Na] | Na
reactant | ethyl acetoacetate | 110 mmol, 11.9 mL, 12.8 g | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | (Z)—N-hydroxy-3-chloro-benzenecarboximidoyl chloride | 100 mmol, 19.0 g | O\N=C(\C1=CC(=CC=C1)Cl)/Cl | C7H5Cl2NO
solvent | methanol | 100 mL | CO | CH4O
solvent | methanol | 100 mL | CO | CH4O
product | 3-(3-Chloro-phenyl)-5-methyl-isoxazole-4-carboxylic acid ethyl ester | 10.1 g, 40% | C(C)OC(=O)C=1C(=NOC1C)C1=CC(=CC=C1)Cl | C13H12ClNO3
